US09380782B2
A mixture of aluminium chloride 33.6 g, sodium azide 49.2 g and tetrahydrofuran 100 mL was stirred with heating under reflux for two hours. After the reaction mixtures were cooled under ice-cooling, and thereto was added a mixture of the above-mentioned 3-chloro-2-methylbenzoic acid chloride and tetrahydrofuran 100 mL and the resulting mixtures were stirred with heating under reflux for ten hours. After cooling the mixtures, to a mixture of sodium nitrite 75.6 g and water 500 mL was added the reaction mixtures with stirring. The mixtures were acidified with concentrated hydrochloric acid and were then extracted with ethyl acetate. The organic layers were dried over anhydrous sodium sulfate and were then concentrated under reduced pressure to give 1-(2-methyl-3-chlorophenyl)-1.4-dihydrotetrazole-5-one.

reactant | aluminium chloride | 33.6 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | sodium azide | 49.2 g | [N-]=[N+]=[N-].[Na+]
reactant | 3-chloro-2-methylbenzoic acid chloride | ClC=1C(=C(C(=O)Cl)C=CC1)C | C8H6Cl2O
reactant | sodium nitrite | 75.6 g | N(=O)[O-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | water | 500 mL | O | H2O
product | 1-(2-methyl-3-chlorophenyl)-1.4-dihydrotetrazole-5-one | CC1=C(C=CC=C1Cl)N1N=NNC1=O | C8H7ClN4O
